US07432256B2
a) 5-Chloro-2-(4-methyl-imidazol-1-yl)-benzonitrile
In analogy to example 5a, 5-chloro-2-fluoro-benzonitrile was reacted with 4-methylimidazole and potassium carbonate for 20 h at 90° C. After aqueous workup and crystallization from Ethyl acetate the title compound was obtained as a white solid (yield: 63%). MS: m/e=218.2 [M+H]+.

reactant | 5-chloro-2-fluoro-benzonitrile | ClC=1C=CC(=C(C#N)C1)F | C7H3ClFN
reactant | 4-methylimidazole | CC=1N=CNC1 | C4H6N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 5-Chloro-2-(4-methyl-imidazol-1-yl)-benzonitrile | yield: 63% | ClC=1C=CC(=C(C#N)C1)N1C=NC(=C1)C | C11H8ClN3
